US07429609B2
7-Fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carbonitrile
Under nitrogen atmosphere, 2.59 g of 7-fluoro-1-trityl-3-vinyl-1H-indazole-5-carbonitrile was dissolved in 50 mL of acetonitrile, added with 10 mL of triethylamine, 271 mg of palladium acetate (II), 450 mg of 2-(di-tert-butylphosphino)biphenyl and 726 μl of 3-bromo pyridine, and refluxed overnight. The solution was cooled to room temperature, added with 10 g of silica gel, the solvent was evaporated, followed by purification by silica gel column chromatography, to afford 2.00 g of the title compound as yellow crystals.

reactant | 7-fluoro-1-trityl-3-vinyl-1H-indazole-5-carbonitrile | 2.59 g | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C)C#N | C29H20FN3
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(di-tert-butylphosphino)biphenyl | 450 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 3-bromo pyridine | 726 μl | BrC=1C=NC=CC1 | C5H4BrN
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 271 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carbonitrile | 2.00 g | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C=1C=NC=CC1)C#N | C34H23FN4
